US07355049B2
A mixture of 6-methyl-pyridine-2-carboxylic acid (10 g, 72.9 mmol) and concentrated sulfuric acid (3.5 mL) in methanol (300 mL) was heated at reflux overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was poured into saturated aqueous sodium hydrogen carbonate (250 mL), and extracted with ethyl acetate (3×100 mL). The combined organic layers were dried (magnesium sulfate), filtered, and evaporated to give 6-methyl-pyridine-2-carboxylic acid methyl ester (6.5 g, 59%) as a colorless oil. 1HNMR (CDCl3): δ 7.97 (d, J=7.6 Hz, 1H), 7.73 (dd, J=7.6 Hz, 1H), 7.36 (d, J=7.6 Hz, 1H), 4.01 (s, 3H), 2.67 (s, 3H).

reactant | 6-methyl-pyridine-2-carboxylic acid | 72.9 mmol, 10 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | sulfuric acid | 3.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 300 mL | CO | CH4O
product | 6-methyl-pyridine-2-carboxylic acid methyl ester | 6.5 g, 59% | COC(=O)C1=NC(=CC=C1)C | C8H9NO2
